US07700644B2
In a similar manner to Example 2.1 above, 1-(2,4-dihydroxyphenyl)-2-(3,4-dimethoxy-phenyl)-ethanone dissolved in DMF had added boron trifluoride diethyl etherate followed by methanesulfonyl chloride in DMF. Addition of water to the reaction mixture afforded 3-(3,4-dimethoxyphenyl)-7-hydroxychromen-4-one.

reactant | boron trifluoride diethyl etherate | B(F)(F)F.CCOCC
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
reactant | 1-(2,4-dihydroxyphenyl)-2-(3,4-dimethoxy-phenyl)-ethanone | OC1=C(C=CC(=C1)O)C(CC1=CC(=C(C=C1)OC)OC)=O | C16H16O5
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-(3,4-dimethoxyphenyl)-7-hydroxychromen-4-one | COC=1C=C(C=CC1OC)C1=COC2=CC(=CC=C2C1=O)O | C17H14O5
